US09279082B2
3,5-Dibromo-2-hydroxybenzaldehyde (30.0 g, 107 mmol) [CAS-Nr. 90-59-5] and 4-methoxyphenylacetic acid (35.7 g, 166 mmol) are heated in 51 ml acetic anhydride and 60 ml triethylamine overnight at reflux. The reaction mixture is cooled down to 80° C. and poured onto 1000 ml 2 M sodium hydroxide under stirring. After 5 min the precipitated product is filtered by vacuum, washed with water and digested two times with 100 ml ethanol. 6,8-Dibromo-3-(4-methoxy-phenyl)-chromen-2-one is obtained as a yellow solid.

reactant | 3,5-Dibromo-2-hydroxybenzaldehyde | 107 mmol, 30.0 g | BrC=1C(=C(C=O)C=C(C1)Br)O | C7H4Br2O2
reactant | 4-methoxyphenylacetic acid | 166 mmol, 35.7 g | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
reactant | triethylamine | 60 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 2 M, 1000 ml | [OH-].[Na+]
solvent | acetic anhydride | 51 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6,8-Dibromo-3-(4-methoxy-phenyl)-chromen-2-one | BrC=1C=C2C=C(C(OC2=C(C1)Br)=O)C1=CC=C(C=C1)OC | C16H10Br2O3
